US07294644B2
Cyclopropylmethyl-2-methyl-5-(3-trifluoromethyl-phenyl)-1H-pyrrole-3-carboxylic acid cyclohexylamide
The title compound was synthesized in analogy to Example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-(3-trifluoromethyl-phenyl)-ethanone as compound of formula S, cyclopropanemethylamine as R3—(CH2)m—NH2 and cyclohexylamine as R1R2NH, MS (ISP) 405.5 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-(3-trifluoromethyl-phenyl)-ethanone | BrCC(=O)C1=CC(=CC=C1)C(F)(F)F | C9H6BrF3O
reactant | cyclopropanemethylamine | C1(CC1)CN | C4H9N
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | Cyclopropylmethyl-2-methyl-5-(3-trifluoromethyl-phenyl)-1H-pyrrole-3-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=C(N(C(=C1)C1=CC(=CC=C1)C(F)(F)F)CC1CC1)C | C23H27F3N2O
